US06875771B2
2-(4-t-Butyl-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile
The titled compound was prepared in an analogous fashion to Intermediate 2 except that 2-(4-tert-butylbenzenesulfonyl) acetonitrile is utilized in place of 2-(4-chlorobenzenesulfonyl) acetonitrile.

reactant | 2-(4-tert-butylbenzenesulfonyl) acetonitrile | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)CC#N | C12H15NO2S
reactant | 2-(4-chlorobenzenesulfonyl) acetonitrile | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
product | 2-(4-t-Butyl-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(S(=O)(=O)C)S(=O)(=O)C | C15H19NO6S3
